US09315495B2
Methyl-6-butylbenzofuran-2-carboxylate was synthesized as in Example 3.1 using methyl-6-bromobenzofuran-2-carboxylate (195 mg, 0.76 mmol) in place of 5-bromo-2-formylfuran and potassium butyltrifluoroborate (188 mg, 1.15 mmol) in place of hexylboronic acid to give methyl-6-butylbenzofuran-2-carboxylate (118 mg, 67%). Used without further characterization.

reactant | methyl-6-bromobenzofuran-2-carboxylate | 0.76 mmol, 195 mg | COC(=O)C=1OC2=C(C1)C=CC(=C2)Br | C10H7BrO3
reactant | potassium butyltrifluoroborate | 1.15 mmol, 188 mg | C(CCC)[B-](F)(F)F.[K+]
product | methyl-6-butylbenzofuran-2-carboxylate | 118 mg, 67% | COC(=O)C=1OC2=C(C1)C=CC(=C2)CCCC | C14H16O3
